US09126970B2
Step c): Reaction with diphenyl-1,3,5-triazine
25 g (62.5 mmol) of product b) are dissolved in 200 ml of dimethylformamide under a protective-gas atmosphere, and 7.7 g of 60% NaH in mineral oil (194 mmol) are added. After 1 h at room temperature, a solution of 2-chloro-4,6-diphenyl-1,3,5-triazine (25 g, 68 mmol) in 300 ml of dimethylformamide is added dropwise. The reaction mixture is stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene, recrystallised from dichloromethane/isopropanol and finally sublimed in a high vacuum, the purity is 99.9%. The yield is 17 g (27 mmol, 44%).

reactant | NaH | 7.7 g | [H-].[Na+]
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 68 mmol, 25 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | diphenyl-1,3,5-triazine | C1(=CC=CC=C1)C1=NC(=NC=N1)C1=CC=CC=C1 | C15H11N3
